US20010047014A1
(3R,4R) and (3S,4S)-4-Benzyl-3,4-dihydroxy-piperidine-1-carboxylic acid benzyl ester 1.46 g (4.3 mmol) was dissolved in 30 ml EtOH and hydrogenated in the presence of 400 mg Pd/C (10%) under atmospheric pressure of H2 at r.t. After 16 hours the reaction was complete and the catalyst was filtered off and the solvent was removed under reduced pressure to give 796 mg (3.8 mmol, 89%) (3R,4R) and (3S,4S)-4-benzyl-3,4-dihydroxy-piperidine as an oil.

reactant | (3S,4S)-4-Benzyl-3,4-dihydroxy-piperidine-1-carboxylic acid benzyl ester | 4.3 mmol, 1.46 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@](CC1)(O)CC1=CC=CC=C1)O | C20H23NO4
solvent | EtOH | 30 ml | CCO | C2H6O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | (3S,4S)-4-benzyl-3,4-dihydroxy-piperidine | C(C1=CC=CC=C1)[C@]1([C@H](CNCC1)O)O | C12H17NO2
